US06716850B2
6-Fluorochroman-4-ol (8 g, 48 mmol) and toluene-4-sulphonic acidn (1 g) were dissolved in toluene and refluxed over-night with subsequent water removal. The mixture was then cooled and washed with NaHCO3 (aq) and purified by chromatography (silica gel, n-hexane) to give 4.2 g (52%) of pure 6-fluoro-2H-chromene.

reactant | 6-Fluorochroman-4-ol | 48 mmol, 8 g | FC=1C=C2C(CCOC2=CC1)O | C9H9FO2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-fluoro-2H-chromene | 4.2 g, 52% | FC=1C=C2C=CCOC2=CC1 | C9H7FO
